US05457104
b) Ethyl (2,6-dichloronicotinoyl)acetate
The crude diethyl (2,6-dichloronicotinoyl)-malonate is refluxed for 2 hours in 45 ml of water and 90 mg of p-toluenesulphonic acid. The mixture is extracted using methylene chloride, and the methylene chloride phase is washed with water, dried over sodium sulphate and concentrated in vacuo. The crude product is purified on silica gel (eluent dichloromethane).

reactant | diethyl (2,6-dichloronicotinoyl)-malonate | ClC1=C(C(=O)C(C(=O)OCC)C(=O)OCC)C=CC(=N1)Cl | C13H13Cl2NO5
solvent | water | 45 ml | O | H2O
solvent | p-toluenesulphonic acid | 90 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | Ethyl (2,6-dichloronicotinoyl)acetate | ClC1=C(C(=O)CC(=O)OCC)C=CC(=N1)Cl | C10H9Cl2NO3
